US06596719B1
According to the procedure described in Example 4b) 1.00 g 5-methyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-2-pyridine sulfonamide was reacted with 2-aminoethanol to give 1.05 g 5-methyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-2-pyridine sulfonamide. LC-MS: tR=2.93 min, [M+1]+=446.51, [M−1]−=444.53.

reactant | 5-methyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-2-pyridine sulfonamide | 1.00 g | CC=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C | C18H17ClN4O4S
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 5-methyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-2-pyridine sulfonamide | 1.05 g | CC=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C | C20H23N5O5S
